US06194190B1
After the plasmid DNA obtained was introduced to the yeast BJ2168, transformants obtained on an auxotrophic plate (6.7 g/l yeast nitrogen base, 20 g/l glucose, 20 mg/l tryptophan, 20 mg/l histidine, 20 mg/l uracil, 15 g/l agar) were each inoculated into a test tube containing 5 ml of YPD medium (10 g/l yeast extract, 20 g/l peptone, 20 g/l glucose) and cultured at 30° C. for 16 hours. Each culture broth was transferred to a conical flask containing 500 ml of the above-described auxotrophic medium and cultured at 30° C. for 16 hours. The culture broth was centrifuged to harvest cells. The cells obtained were suspended in 50 ml of buffer C (1 M sorbitol, 50 mM Tris-HCl, pH 7.5, 30 mM DTT) and incubated at 30° C. for 10 minutes, followed by centrifugation. The cells obtained were further suspended in 10 ml of buffer D (1 M sorbitol, 50 mM Tris-HCl, pH 7.5, 2 mM DTT), and Zymolyase-100T (manufactured by Seikagaku Corp.) was added so as to a final concentration of 0.5 mg/ml, followed by incubation at 30° C. for 30 minutes and subsequent centrifugation, to yield a protoplast. The protoplast obtained was then suspended in 20 ml of buffer E (50 mM Tris-HCl, pH 7.5, 2 mM DTT). EDTA, KCl, and Triton X-100 were added so as to respective final concentrations of 1 mM, 0.2 M, and 0.2%, followed by incubation at 37° C. for 5 minutes. This suspension was heat-treated at 100° C. for 15 minutes, and then centrifuged to yield a lysate. From this lysate, a modified enzyme preparation was prepared, by the same purification method as that for amino terminal protecting group-releasing enzyme described in item (9) of Example 1. One unit of the modified enzyme preparation was defined as the amount of enzyme capable of producing 1 μmol of 7-amino-4-methylcoumarine in one minute at a pH of 7.6 and 75° C. in the presence of an Met-MCA as the substrate. The yeast expressing the above protein is named and designated as Saccharomyces cerevisiae BJ2168/pAcDAP, and has been deposited under accession number FERM BP-5952 with the National Institute of Bioscience and Human-Technology, Agency of Industrial Science and Technology, Ministry of International Trade and Industry, of which the address is 1-3, Higashi 1-chome, Tsukuba-shi, Ibaraki-ken, 305 Japan (date of original deposit: May 23, 1997).

reactant | sorbitol | 1 M | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | Tris-HCl | 50 mM | C(C(CO)(CO)N)O.Cl
reactant | DTT | 30 mM, pH 7.5 | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | sorbitol | 1 M | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | Tris-HCl | 50 mM | C(C(CO)(CO)N)O.Cl
reactant | DTT | 2 mM, pH 7.5 | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | Tris-HCl | 50 mM | C(C(CO)(CO)N)O.Cl
reactant | DTT | 2 mM, pH 7.5 | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | KCl | [Cl-].[K+]
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | Met | N[C@@H](CCSC)C(=O)O | C5H11NO2S
product | 7-amino-4-methylcoumarine | 1 μmol | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
